US07888386B2
RS/SR mixture of enantiomers (17-1) and SS/RR mixture of enantiomers (17-2) of 3-(Phenoxyphenylmethyl)pyrrolidine
Following the procedure of Example 2, and, in Preparation 3, substituting the RS/SR mixture of enantiomers with the SS/RR mixture of enantiomers of 3-(hydroxyphenylmethyl)-pyrrolidine-1-carboxylic acid t-butyl ester (47.5 mg, 170 μmol), and substituting 2-iodoanisole with the appropriate aryl iodide, the SS/RR mixture of enantiomers (16-2) of the title compound was prepared (12.4 mg) as a TFA salt. MS m/z: [M+H]+ calcd for C17H19NO, 254.15. Found 254.2.

reactant | 3-(hydroxyphenylmethyl)-pyrrolidine-1-carboxylic acid t-butyl ester | 170 μmol, 47.5 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C(C1=CC=CC=C1)O | C16H23NO3
reactant | 2-iodoanisole | IC1=C(C=CC=C1)OC | C7H7IO
product | 3-(Phenoxyphenylmethyl)pyrrolidine | O(C1=CC=CC=C1)C(C1CNCC1)C1=CC=CC=C1 | C17H19NO
